US09060517B2
0.32 g of 3-(2-fluoro-6-hydroxy-phenyl)-3-methyl-butan-2-one and 0.28 g of 2-chloro-5-fluoro-quinoxaline were dissolved in 3 ml of dimethylformamide. 0.25 g of potassium carbonate were added thereto followed by stirring for 2 hours at 100° C. Subsequently, the reaction mixture was purified by silica gel column chromatography to obtain 0.14 g of 3-[2-fluoro-6-(5-fluoro-quinoxalin-2-yloxy)-phenyl]-3-methyl-butan-2-one.

reactant | 3-(2-fluoro-6-hydroxy-phenyl)-3-methyl-butan-2-one | 0.32 g | FC1=C(C(=CC=C1)O)C(C(C)=O)(C)C | C11H13FO2
reactant | 2-chloro-5-fluoro-quinoxaline | 0.28 g | ClC1=NC2=CC=CC(=C2N=C1)F | C8H4ClFN2
reactant | potassium carbonate | 0.25 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 3-[2-fluoro-6-(5-fluoro-quinoxalin-2-yloxy)-phenyl]-3-methyl-butan-2-one | 0.14 g | FC1=C(C(=CC=C1)OC1=NC2=CC=CC(=C2N=C1)F)C(C(C)=O)(C)C | C19H16F2N2O2
